US05258529
5.00 Grams of 2-iodoallyl-α-naphthylcarbinol were disolved in 50 g of dimethylformamide, and 1.23 g of sodium hydroxide in a flake form were added. The mixture was stirred at room temperature for 6 hours. After the reaction was completed the reaction mixture was neutralized with concentrated hydrochloric acid, insolubles were filtered off, and the filtrate was concentrated under reduced pressure. The concentration residue was subjected to extraction with toluene and washed with a 7% sodium carbonate aqueous solution, and then the toluene was distilled off under reduced pressure to give 2.78 g of α-naphthylpropargylcarbinol; nD25 =1.549, FI-MS m/e 196(M+).

reactant | 2-iodoallyl-α-naphthylcarbinol | IC(CC(O)C1=CC=CC2=CC=CC=C12)=C | C14H13IO
reactant | sodium hydroxide | 1.23 g | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | dimethylformamide | 50 g | CN(C=O)C | C3H7NO
product | α-naphthylpropargylcarbinol | 2.78 g | C1(=CC=CC2=CC=CC=C12)C(O)CC#C | C14H12O
